US07622471B2
4-Methoxypyridine-2-carbonitrile
In an argon atmosphere, triethylamine (17.8 mL) was added to 4-methoxypyridine-N-oxide (8.0 g) in acetonitrile (160 mL) at room temperature. Trimethylsilyl cyanide (24.1 mL) was added dropwise to the mixture, followed by stirring for 20 minutes. Subsequently, the mixture was stirred at 95° C. for 14 hours, and then cooled in air. The solvent was evaporated under reduced pressure. The residue was partitioned between saturated aqueous solution of sodium hydrogencarbonate and ethyl acetate. The organic layer was dried over sodium hydrogensulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate), to thereby give the title compound as a solid substance (1.57 g, 18%).

reactant | triethylamine | 17.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxypyridine-N-oxide | 8.0 g | COC1=CC=[N+](C=C1)[O-] | C6H7NO2
reactant | Trimethylsilyl cyanide | 24.1 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
product | 4-Methoxypyridine-2-carbonitrile | COC1=CC(=NC=C1)C#N | C7H6N2O
